US04826862
A mixture of 6 parts of methyl [5-[cyclopropyl(hydroxy)methyl]-1H-benzimidazol-2-yl]carbamate, 4.8 parts of 1,1'-carbonylbis[1H-imidazole] and 178 parts of tetrahydrofuran was stirred for 17 hours at room temperature. The reaction mixture was evaporated. The residue was washed with water and dissolved in trichloromethane. The organic layer was dried, filtered and evaporated. The residue was purified twice by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 72 parts of ethyl acetate. The product was filtered off and dried, yielding 3.2 parts (44.4%) of methyl [5-[cyclopropyl(1H-imidazol-1-yl)methyl]-1H-benzimidazol-2-yl]carbamate; mp. 217.8° C. (compound 10).

reactant | methyl [5-[cyclopropyl(hydroxy)methyl]-1H-benzimidazol-2-yl]carbamate | C1(CC1)C(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)O | C13H15N3O3
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl [5-[cyclopropyl(1H-imidazol-1-yl)methyl]-1H-benzimidazol-2-yl]carbamate | 44.4% | C1(CC1)C(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)N1C=NC=C1 | C16H17N5O2
